US05808079
Preparation of Ethyl 2-(5-ethyl-2-pyridyl)-4-isopropyl-4-methyl-5-oxo-2-imidazoline-1-crotonate, (E)-
A stirred suspension of sodium hydride (1.6 g, 53 mmol, 80% oil dispersion) in dry tetrahydrofuran is treated with a solution of 2-(5-ethyl-2-pyridyl)-4-isopropyl-4-methyl-5-oxo-2-imidazoline (10.24 g, 41.80 mmol) in dry tetrahydrofuran dropwise via addition funnel. After addition is complete and effervescence subsides, ethyl 4-bromocrotonate (12.9 g, 50.1 mmol, 75% technical grade) is added to the reaction mixture at once. The resulting mixture is stirred at room temperature under nitrogen for 19 hours. After this period, the reaction mixture is partitioned between water and ether. The layers are separated, and the organic layer is dried over magnesium sulfate, decolorized with activated charcoal, vacuum filtered through diatomaceous earth, and concentrated in vacuo to obtain a dark brown oil. The oil is purified by flash chromatography (2:1 hexanes/ethyl acetate eluent) to give the title product as a pale orange oil (3.78 g, 25%).

reactant | sodium hydride | 53 mmol, 1.6 g | [H-].[Na+]
reactant | 2-(5-ethyl-2-pyridyl)-4-isopropyl-4-methyl-5-oxo-2-imidazoline | 41.80 mmol, 10.24 g | C(C)C=1C=CC(=NC1)C=1NC(C(N1)(C)C(C)C)=O | C14H19N3O
reactant | ethyl 4-bromocrotonate | 50.1 mmol, 12.9 g | BrC/C=C/C(=O)OCC | C6H9BrO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl 2-(5-ethyl-2-pyridyl)-4-isopropyl-4-methyl-5-oxo-2-imidazoline-1-crotonate | 3.78 g, 25% | C(C)C=1C=CC(=NC1)C=1N(C(C(N1)(C)C(C)C)=O)C/C=C/C(=O)OCC | C20H27N3O3
